US09085562B2
b. Preparation of methyl 4-(5-cyanopyridin-3-yloxy)-6-methylpicolinate
Methyl 4-(5-bromopyridin-3-yloxy)-6-methylpicolinate (313 mg, 0.969 mmol, 1.00 eq), Tetrakis(triphenylphosphine)palladium(0) (112 mg, 0.0969 mmol, 0.1 eq), Zn(CN)2 (125 mg, 1.06 mmol, 1.1 eq), and DMF (5 mL) were added to a microwave vial and heated at 140° C. for 10 minutes. The reaction was filtered and concentrated on silica gel (2 g). The silica gel was loaded on top a fresh bed of silica gel and washed with 50% ethyl acetate/hexane. The solvents were removed in vacuo and the crude solid was purified by flash chromatography on silica gel to afford 210 mg (81%) of the title compound as a white solid. 1H NMR (400 MHz, DMSO-d6) δ 8.97 (d, J=1.5 Hz, 1H), 8.84 (d, J=2.7 Hz, 1H), 8.35-8.34 (m, 1H), 7.45 (d, J=2.2 Hz, 1H), 7.21 (d, J=2.2 Hz, 1H), 3.85 (s, 3H), 2.49 (s, 3H); [M+1]+: 270.1.

reactant | Methyl 4-(5-bromopyridin-3-yloxy)-6-methylpicolinate | 0.969 mmol, 313 mg, 1.00 eq | BrC=1C=C(C=NC1)OC1=CC(=NC(=C1)C)C(=O)OC | C13H11BrN2O3
reactant | DMF | 5 mL | CN(C)C=O | C3H7NO
catalyst | Tetrakis(triphenylphosphine)palladium(0) | 0.0969 mmol, 112 mg, 0.1 eq | C=1C=CC(=CC1)[P](C=2C=CC=CC2)(C=3C=CC=CC3)[Pd]([P](C=4C=CC=CC4)(C=5C=CC=CC5)C=6C=CC=CC6)([P](C=7C=CC=CC7)(C=8C=CC=CC8)C=9C=CC=CC9)[P](C=1C=CC=CC1)(C=1C=CC=CC1)C=1C=CC=CC1
catalyst | Zn(CN)2 | 1.06 mmol, 125 mg, 1.1 eq | [C-]#N.[C-]#N.[Zn+2]
product | methyl 4-(5-cyanopyridin-3-yloxy)-6-methylpicolinate | 210 mg, 81% | C(#N)C=1C=C(C=NC1)OC1=CC(=NC(=C1)C)C(=O)OC | C14H11N3O3
